US05523278
Preparation of o-(5-Nitro-1,2-benzisoxazol-3-yl)phenol
A 1 molar solution of boron tribromide in methylene chloride (15 mL, 15 mmol) is added to a solution of 3-(o-methoxyphenyl)-5-nitro-1,2-benzisoxazole (1.96 g, 7.25 mmol) in methylene chloride at 0° C. The reaction mixture is warmed to and stirred at room temperature for 2 hours and diluted with an ice/water mixture. The phases are separated and the aqueous phase is extracted with methylene chloride. The organic phase and methylene chloride extracts are combined, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title product as a solid, mp 172°-176° C.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 3-(o-methoxyphenyl)-5-nitro-1,2-benzisoxazole | 7.25 mmol, 1.96 g | COC1=C(C=CC=C1)C1=NOC2=C1C=C(C=C2)[N+](=O)[O-] | C14H10N2O4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mmol, 15 mL | C(Cl)Cl | CH2Cl2
product | o-(5-Nitro-1,2-benzisoxazol-3-yl)phenol | [N+](=O)([O-])C=1C=CC2=C(C(=NO2)C2=C(C=CC=C2)O)C1 | C13H8N2O4
